2113-01-28 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Onc wanted Lasix, patient's O2 requirement came down before lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-28**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37
C (98.6
   HR: 91 (91 - 116) bpm
   BP: 102/61(71) {79/42(58) - 140/72(86)} mmHg
   RR: 21 (20 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,568 mL
                                                                    963 mL
   PO:
             490 mL
   TF:
   IVF:
                                                                  1,765 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  4,825 mL
                                                                    550 mL
   Urine:
                                                                  2,425 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,257 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.53/44/72//12
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (2 digits) 358**] / Radiology
   422 K/uL
   8.4 g/dL
   132 mg/dL
   0.7 mg/dL
   3.7 mEq/L
   13 mg/dL
   105 mEq/L
   139 mEq/L
   25.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2113-1-27**]  01:35 PM
                             [**2113-1-27**]  03:47 PM
                             [**2113-1-28**]  12:07 AM
   WBC
   12.3
   Hct
   25.8
   Plt
   422
   Cr
   0.9
   0.7
   TCO2
   38
   Glucose
   132
   Other [**Year (4 digits) **]: Differential-Neuts:95.4 %, Lymph:1.9 %, Mono:2.1 %, Eos:0.4
   %, Lactic Acid:2.9 mmol/L, LDH:399 IU/L, Ca++:6.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   48M with recently diagnosed Large B-Cell Lymphoma currently undergoing
   chemotherapy ([**Hospital1 988**], Day #2) presenting from the BMT service with acute
   respiratory distress.
 HYPOXEMIA
   Patient cambe down to 5L NC overnight, with very little intevervention.
   ABG had shown a large A-a gradient of 300, saturation has been 100% on
   10L NRB. Initial concern was for tamponade/pericardial effusion however
   prelim Echo reports no fluid collection. CXR shows elevated rt
   hemidiaphragm which on prior reports looks unchanged and reported as
   atelectasis. Given the high A-a gradient suspect either V/Q mismatch or
   shunt physiology. Primary concern is possible disease progression, the
   rate in the decline of his health status suggests a rapid course. CXR
   does show changes within the parenchyma. Pt currently on Chemorx which
   was started yesterday. Other ddx include possible P. Embolism.
   Infection currently unlikely given his clinical status, although he is
   febrile it is likely due to his oncological diagnosis given the length
   of his fevers.
   - check finalized Echo report
   - continue on NRB and wean for a goal O2 of >90%
   - sputum cx if present
   .
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Pt presented with 2 week history of fevers that were attributed to his
   presumed B-cell Lymphoma. Pt still intermittently febrile with a temp
   of 103 prior to his transfer to the unit.  CXR not significant for an
   infectious process.
   - fever control with tylenol prn
   - as above
   .
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Pt initially presented with B type symptoms and massive
   lymphadenopathy. This combination of signs/symptoms is concerning for
   lymphoma more likely Non-Hogkin type. Patient found to have agressive
   large B cell lymphoma Stage IV as there is supra and infra
   diaphragmatic involment and extra nodal disease.
   - will continue on EPOC
   - IVF hydration and alkalinization of urine
   - pt has PICC line in place
   - will f/u TID tumor lysis [**Hospital1 **]
   - f/u BM and biopsy final results
   .
 ALKALOSIS, METABOLIC
   Metabolic Alkalosis likely [**2-21**] sodium bicarb given with chemo agents.
   Will continue to follow. Unfortunately his bicarb was not checked on AM
   [**Last Name (LF) **], [**First Name3 (LF) 124**] add-on and follow-up.
   - f/u bicarb
   .
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   Pt endorsed abdominal cramping as part of his presentation initially.
   Likely related to his lymphoma given the evidence of mesentaric
   lymphadenopathy. Per pt's wife though his abd appears more distended
   and firm. KUB ordered and shows stool within the colon.
   - will change bowel prep to standing
   - consider adding Lactulose if no BMs by the AM
   ##. Elevated Lactate: Pt still noted to have a high lactate level of
   2.9 which could be related to his chemo therapy. Other considerations
   include decrease oxygenation of peripheral cells from hypoxia, however
   given his oxygen sat and breathing effort this is unlikely.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-1-27**] 01:06 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer: Omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE confirmed
   Disposition:  Pending resolution of symptoms.

2113-01-28 11:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In MICU, patient's dyspnea has diminished. Patient's oxygen saturation
   started to improve and patient was diuresed. O2 sat now 97% with nasal
   cannula supplementation.
   Fever during the night.
   24 Hour Events:
 PICC LINE - START [**2113-1-27**] 01:06 PM
 URINE CULTURE - At [**2113-1-28**] 03:09 AM
 FEVER - 102.5
F - [**2113-1-28**] 12:00 AM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin, PPI, heparin sc, oxycodone, allopurinol, senna, sodium bicarb
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-28**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.4
C (97.6
   HR: 85 (80 - 116) bpm
   BP: 109/68(77) {79/42(58) - 140/72(86)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,568 mL
                                                                  1,253 mL
   PO:
             490 mL
   TF:
   IVF:
                                                                  1,765 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  4,825 mL
                                                                  1,250 mL
   Urine:
                                                                  2,425 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,257 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.53/44/72/32/12
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Dullness : right base), (Breath Sounds: Clear
   : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , Diminished:
   right base, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   394 K/uL
   125 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.4 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   24.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2113-1-27**]  01:35 PM
                             [**2113-1-27**]  03:47 PM
                             [**2113-1-28**]  12:07 AM
                             [**2113-1-28**]  06:29 AM
   WBC
   12.3
   10.1
   Hct
   25.8
   24.8
   Plt
   422
   394
   Cr
   0.9
   0.7
   0.8
   TCO2
   38
   Glucose
   132
   125
   Other labs: ALT / AST:101/113, Alk Phos / T Bili:226/0.6,
   Differential-Neuts:95.4 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.2 %,
   Fibrinogen:972 mg/dL, Lactic Acid:2.9 mmol/L, LDH:303 IU/L, Ca++:7.8
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: elevated right hemi-diaphragm with probable atelectasis
   right base.
   Assessment and Plan
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 ALKALOSIS, METABOLIC
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   RESPIRATORY DISTRESS
   ANEMIA
   =============================
   Cause of respiratory event still not entirely clear. Rapid improvement
   consistent  with possible PE or capillary leak related to chemo and
   tumor lysis. Patient has new elevation of right hemidiaphragm; may have
   had pressure damage to phrenic nerve from mediastinal adenopathy. Will
   reduce FIO2 now.
   Hct down, likely related to tumor. No evidence of GI bleeding. Not at
   transfusion threshold.
   Maintain alkolosis for tumor lysis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2113-1-27**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30
   Patient is critically ill

2113-01-29 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - LENIs neg
   - tumor lysis labs OK
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-1-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 63 (63 - 100) bpm
   BP: 119/75(85) {99/58(66) - 127/79(88)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,668 mL
                                                                    485 mL
   PO:
                                                                  1,960 mL
             TF:
   IVF:
                                                                  1,708 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                    750 mL
   Urine:
                                                                  5,575 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,907 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   450 K/uL
   9.0 g/dL
   122 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.6 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   28.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2113-1-27**]  01:35 PM
                             [**2113-1-27**]  03:47 PM
                             [**2113-1-28**]  12:07 AM
                             [**2113-1-28**]  06:29 AM
                             [**2113-1-28**]  01:18 PM
                             [**2113-1-29**]  05:20 AM
   WBC
   12.3
   10.1
   6.9
   Hct
   25.8
   24.8
   28.8
   Plt
   422
   394
   450
   Cr
   0.9
   0.7
   0.8
   0.7
   0.7
   TCO2
   38
   Glucose
   132
   125
   122
   Other labs: ALT / AST:198/224, Alk Phos / T Bili:265/0.6,
   Differential-Neuts:95.4 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.2 %,
   Fibrinogen:972 mg/dL, Lactic Acid:2.9 mmol/L, LDH:291 IU/L, Ca++:8.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   48M with recently diagnosed Large B-Cell Lymphoma currently undergoing
   chemotherapy ([**Hospital1 988**], Day #2) presenting from the BMT service with acute
   respiratory distress.
 HYPOXEMIA
   ABG had shown a large A-a gradient of 300, saturation has been 100% on
   10L NRB. Initial concern was for tamponade/pericardial effusion however
   prelim Echo reports no fluid collection. CXR shows elevated rt
   hemidiaphragm which is new since admission. Pt also has intractable
   hiccups suggesting diaphragm involvement. Concern is for phrenic nerve
   irritation by tumor/LAD causing diaphragmatic paralysis. PE was
   considered but less likely to have improved spontaneously and LENIs
   neg, no e/o right heart strain on TTE. Possibly etiologies include
   tumor emboli or bronchospasm, now resolved. Resp status stable on NC.
   - on NC,  wean for a goal O2 of >90%
   - monitor CXR for diaphragm changes with tx of lymphoma
   .
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Pt presented with 2 week history of fevers that were attributed to his
   presumed B-cell Lymphoma. Pt still intermittently febrile with a temp
   of 103 prior to his transfer to the unit.  CXR not significant for an
   infectious process.
   - fever control with tylenol prn
   - as above
   .
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Pt initially presented with B type symptoms and massive
   lymphadenopathy. This combination of signs/symptoms is concerning for
   lymphoma more likely Non-Hogkin type. Patient found to have agressive
   large B cell lymphoma Stage IV as there is supra and infra
   diaphragmatic involment and extra nodal disease.
   - will continue on EPOC
   - IVF hydration and alkalinization of urine
   - pt has PICC line in place
   - will f/u TID tumor lysis labs
   .
 ALKALOSIS, METABOLIC
   Metabolic Alkalosis likely [**2-21**] sodium bicarb given with chemo agents.
   Will continue to follow.
   .
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   Pt endorsed abdominal cramping as part of his presentation initially.
   Likely related to his lymphoma given the evidence of mesentaric
   lymphadenopathy. Per pt's wife though his abd appears more distended
   and firm. KUB ordered and shows stool within the colon.
   - will change bowel prep to standing
   - consider adding Lactulose
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   PICC Line - [**2113-1-27**] 01:06 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer: Omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE confirmed
   Disposition:  call out to BMT

2113-01-29 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient feeling better. Oxygenation much improved; still using nasal O2
   supplementation
   Autodiuresing.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-1-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-29**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**15**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 84 (63 - 100) bpm
   BP: 131/79(90) {99/58(66) - 131/79(90)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,668 mL
                                                                    670 mL
   PO:
                                                                  1,960 mL
             TF:
   IVF:
                                                                  1,708 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                  1,500 mL
   Urine:
                                                                  5,575 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,907 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Dullness : right base), (Breath Sounds: No(t) Clear : ,
   Crackles : few rales at left base, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Decreased
   fremitus right base.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   450 K/uL
   122 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.6 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   28.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2113-1-27**]  01:35 PM
                             [**2113-1-27**]  03:47 PM
                             [**2113-1-28**]  12:07 AM
                             [**2113-1-28**]  06:29 AM
                             [**2113-1-28**]  01:18 PM
                             [**2113-1-29**]  05:20 AM
   WBC
   12.3
   10.1
   6.9
   Hct
   25.8
   24.8
   28.8
   Plt
   422
   394
   450
   Cr
   0.9
   0.7
   0.8
   0.7
   0.7
   TCO2
   38
   Glucose
   132
   125
   122
   Other labs: ALT / AST:198/224, Alk Phos / T Bili:265/0.6,
   Differential-Neuts:95.4 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.2 %,
   Fibrinogen:972 mg/dL, Lactic Acid:2.9 mmol/L, LDH:291 IU/L, Ca++:8.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: less dense opacity at right base
   Assessment and Plan
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 ALKALOSIS, METABOLIC
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   ==================
   Patient much improved. Minima oxygen requirement. By exam, still likely
   has elevated right hemi-diaphragm. Maintain negative fluid balance
   today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2113-1-27**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes